US06313107B1
General Procedure M: 6-Bromo-2,2,4,4-tetramethyl-chroman-8-carbaldehyde (Intermediate 30)
A stirred, cooled (ice bath) solution of 6-bromo-2,2,4,4-tetramethyl chroman, (0.5 g, 1.865 mmol) in anhydrous dichloromethane (5 mL) was treated with a 1M solution (1.86 mL, 1.86 mmol) of titanium tetrachloride in dichloromethane followed by α,α-dichloro methyl ether (0.214 g, 1.865 mmol). The reaction mixture was allowed to warm to ambient temperature for 4 h. The reaction mixture was diluted with diethyl ether, washed with brine (×1) and dried over anhydrous sodium sulfate, filtered and evaporated in vacuo to a residue which was subjected to flash column chromatography over silica gel (230-400 mesh) using 5% ethyl acetate in hexane to afford the title compound as a yellow solid (0.52 g, 94%).

reactant | 6-bromo-2,2,4,4-tetramethyl chroman | 1.865 mmol, 0.5 g | BrC=1C=C2C(CC(OC2=CC1)(C)C)(C)C | C13H17BrO
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
catalyst | titanium tetrachloride | [Ti](Cl)(Cl)(Cl)Cl
product | 6-Bromo-2,2,4,4-tetramethyl-chroman-8-carbaldehyde | 0.52 g, 94% | BrC=1C=C2C(CC(OC2=C(C1)C=O)(C)C)(C)C | C14H17BrO2
